US06730792B2
2-Fluoro-6-(thien-3-yl)anisole is prepared from 2-fluoro-6-iodoanisole (1.35 g, 5.36 mmol) by Suzuki coupling with thiophene-3-boronic acid according to the general procedure described in Representative Procedure 4(b) below; yield: 1.05 g (94%).

reactant | 2-fluoro-6-iodoanisole | 5.36 mmol, 1.35 g | FC1=C(C(=CC=C1)I)OC | C7H6FIO
reactant | thiophene-3-boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
product | 2-Fluoro-6-(thien-3-yl)anisole | FC1=C(C(=CC=C1)C1=CSC=C1)OC | C11H9FOS
